US05167949
d) 2-[(3,4-Dichlorophenoxy)methyl]-4(3H)-pteridinone
Obtained using the procedure described in section b of Example 9, starting with 15.0 g (0.0466 mole) of 4-amino-2-[(3,4-dichlorophenoxy)methyl]pteridine in 1500 ml of 5% aqueous sodium hydroxide. Heating time: 6 hours under reflux. Yld: 10.0 g (66%), m.p. 285°-287° C. (ethanol/N,N-dimethylformamide).

reactant | 4-amino-2-[(3,4-dichlorophenoxy)methyl]pteridine | 0.0466 mole, 15.0 g | NC1=NC(=NC2=NC=CN=C12)COC1=CC(=C(C=C1)Cl)Cl | C13H9Cl2N5O
reactant | ethanol N,N-dimethylformamide | C(C)O.CN(C=O)C
solvent | sodium hydroxide | 1500 ml | [OH-].[Na+]
product | 2-[(3,4-Dichlorophenoxy)methyl]-4(3H)-pteridinone | ClC=1C=C(OCC2=NC3=NC=CN=C3C(N2)=O)C=CC1Cl | C13H8Cl2N4O2
